US06660742B2
A solution of 2-[4-(N-benzyloxycarbonylamino)-2-(5-methoxyindole-2-carboxamido)naphthalen-1-yl]ethyl chloride (68 mg, 0.13 mmol) in THF (10 mL) was added to a suspension of 10% Pd/C (100 mg) in chilled THF (10 mL) and the suspension was hydrogenated under H2 atmosphere at room temperature overnight. The suspension was filtered over Celite and the filtrate was concentrated in reduced pressure. The residue was crystallized with diethylether to yield 4-(2-Chloroethyl)-3-(5-methoxyindole-2-carboxamido)-1-naphthylamine (40 mg, 78%) as a white solid: mp 228° C. (decomp.); 1H NMR (DMSO-d6, 500 MHz) δ 9.95 (s, 1H), 8.11 (d, 8.5, 1H), 7.96 (d, 8.0, 1H), 7.52 (t, 7.0, 1H), 7.41 (t, 7.0, 1H), 7.35 (d, 9.0, 1H), 7.28 (s, 1H), 7.13 (s, 1H), 6.89 (d, 9.0, 1H), 6.67 (s, 1H) 5.83 (s, 2H), ), 3.77 (s, 3H), 3.73 (t, 8.0, 2H), 3.37 (t, 8.0, 2H); ); FABMS (NBA) m/z 394 (M+H+); IR (nujol) νmax 3296, 1652, 1592, 1533, 1462, 1260, 1094, 1020, 800 cm−1.

reactant | 2-[4-(N-benzyloxycarbonylamino)-2-(5-methoxyindole-2-carboxamido)naphthalen-1-yl]ethyl chloride | 0.13 mmol, 68 mg | C(C1=CC=CC=C1)OC(=O)NC1=CC(=C(C2=CC=CC=C12)CCCl)NC(=O)C=1NC2=CC=C(C=C2C1)OC | C30H26ClN3O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 4-(2-Chloroethyl)-3-(5-methoxyindole-2-carboxamido)-1-naphthylamine | 40 mg, 78% | ClCCC1=C(C=C(C2=CC=CC=C12)N)NC(=O)C=1NC2=CC=C(C=C2C1)OC | C22H20ClN3O2
